US07067517B2
4-(tert-Butyl-dimethyl-silanyloxy)-piperidine-1-carboxylic acid 5-benzoylamino-pyridin-2-yl ester
A solution of N-(6-hydroxy-pyridin-3-yl)-benzamide (214 mg, 1.00 mmol), 3-[4-(tert-butyl-dimethyl-silanyloxy)-piperidine-1-carbonyl]-1-methyl-3H-imidazol-1-ium iodide (451 mg, 1.00 mmol) and 1,4-diazabicyclo[2,2,2]octane (112 mg, 1.00 mmol) in dimethylformamide (10 mL) was stirred for 18 hours at room temperature followed by heating for 3 days at 40° C. The solvent was evaporated in vacuo and the residue was purified by flash column chromatography (SiO2, ethyl acetate:heptane 40:60), yielding the title compound (364 mg, 77% yield)

reactant | N-(6-hydroxy-pyridin-3-yl)-benzamide | 1.00 mmol, 214 mg | OC1=CC=C(C=N1)NC(C1=CC=CC=C1)=O | C12H10N2O2
reactant | 3-[4-(tert-butyl-dimethyl-silanyloxy)-piperidine-1-carbonyl]-1-methyl-3H-imidazol-1-ium iodide | 1.00 mmol, 451 mg | [I-].C(C)(C)(C)[Si](OC1CCN(CC1)C(=O)N1C=[N+](C=C1)C)(C)C
reactant | 1,4-diazabicyclo[2,2,2]octane | 1.00 mmol, 112 mg | N12CCN(CC1)CC2 | C6H12N2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-(tert-Butyl-dimethyl-silanyloxy)-piperidine-1-carboxylic acid 5-benzoylamino-pyridin-2-yl ester | 364 mg, 77% yield | C(C1=CC=CC=C1)(=O)NC=1C=CC(=NC1)OC(=O)N1CCC(CC1)O[Si](C)(C)C(C)(C)C | C24H33N3O4Si
